US07935699B2
In a Parr shaker bottle was placed benzo[b]thiophene 1,1-dioxide (5.0 g, 30.08 mmol), palladium on activated carbon (500 mg) and ethanol (100 mL). The bottle was placed on a Parr shaker and charged with 50 psi of hydrogen for 1 h. The reaction mixture was removed from the Parr shaker and filtered through a plug of celite and concentrated in vacuo to afford 2,3-dihydro-benzo[b]thiophene 1,1-dioxide (5.06 g, 100%) as a white solid.

reactant | benzo[b]thiophene 1,1-dioxide | 30.08 mmol, 5.0 g | S1(C2=C(C=C1)C=CC=C2)(=O)=O | C8H6O2S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 500 mg | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2,3-dihydro-benzo[b]thiophene 1,1-dioxide | 5.06 g, 100% | S1(C2=C(CC1)C=CC=C2)(=O)=O | C8H8O2S
